US09382188B2
A) (E)-ethyl 3-(2-methylpyridin-4-yl)acrylate
Under an argon atmosphere, to a solution of 4-bromo-2-methylpyridine (1.78 mL) in DMF (35 mL) were added ethyl acrylate (8.13 mL), palladium (II) acetate (168 mg), tri-o-tolylphosphine (685 mg) and triethylamine (6.27 mL), and the mixture was stirred at 100° C. for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give a crude product of the title compound as a yellow oil. This compound was used for the next step without further purification.

reactant | 4-bromo-2-methylpyridine | 1.78 mL | BrC1=CC(=NC=C1)C | C6H6BrN
reactant | ethyl acrylate | 8.13 mL | C(C=C)(=O)OCC | C5H8O2
reactant | tri-o-tolylphosphine | 685 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 6.27 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 168 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
product | (E)-ethyl 3-(2-methylpyridin-4-yl)acrylate | CC1=NC=CC(=C1)/C=C/C(=O)OCC | C11H13NO2
